US07205296B2
To dioxane (10 mL) was added 5-bromo-3-methylpyridin-2-amine (2 g, 10.6 mmol), sodium iodide (3.2 g, 21.4 mmoL), copper iodide (0.190 g, 1.06 mmol) and the solution degassed followed by addition of tetramethylethane-1,2-diamine (0.803 mL, 1.06 mmol) this mixture heated at 110° C. overnight. After cooling water was added and extracted the crude product with ethyl acetate. The residue was purified by column chromatography to give 5-iodo-3-methylpyridin-2-amine as a beige solid (2.3 g, 93%).

reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | 5-bromo-3-methylpyridin-2-amine | 10.6 mmol, 2 g | BrC=1C=C(C(=NC1)N)C | C6H7BrN2
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | tetramethylethane-1,2-diamine | 1.06 mmol, 0.803 mL | CC(C(N)(C)C)(N)C | C6H16N2
catalyst | copper iodide | 1.06 mmol, 0.190 g | [Cu](I)I
solvent | water | O | H2O
product | 5-iodo-3-methylpyridin-2-amine | 2.3 g, 93% | IC=1C=C(C(=NC1)N)C | C6H7IN2
